US06689733B1
(R,R)-N ,N′-Bis[4-(N-ethyl-N-methylamino)salicylidene]-1,2-cyclohexanediamine
Synthesis and working up are carried out as in Example 9, starting from 500 mg (2.79 mmol) of 4-(N-ethyl-N-methylamino)salicylaldehyde and 152 mg (1.33 mmol) of trans-1,2-cyclohexanediamine. Yield: 569 mg (98%), yellow solid.

reactant | 4-(N-ethyl-N-methylamino)salicylaldehyde | 2.79 mmol, 500 mg | C(C)N(C)C=1C=C(C(C=O)=CC1)O | C10H13NO2
reactant | trans-1,2-cyclohexanediamine | 1.33 mmol, 152 mg | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
product | (R,R)-N ,N′-Bis[4-(N-ethyl-N-methylamino)salicylidene]-1,2-cyclohexanediamine | C(C)N(C)C=1C=C(C(C=N[C@H]2[C@@H](CCCC2)N=CC=2C(O)=CC(=CC2)N(CC)C)=CC1)O | C26H36N4O2
